US06111110
The ketone group of the tetralone is first protected as a ketal. Preferably, ketalization is afforded by slowly adding 1,3-bis-trimethylsilyloxy propandiol to a solution of trifluromethanesulfonate in methylene chloride. Temperatures from about -70° C. to about -60° C. are employed using standard cooling procedures. For example, 6-bromo-2-tetralone is slowly added to a solution of 1,3-bis-trimethylsilyloxy propandiol and trifluromethanesulfonate in methylene chloride to yield 6-bromo-2-tetralone propylene ketal.

reactant | 6-bromo-2-tetralone | BrC=1C=C2CCC(CC2=CC1)=O | C10H9BrO
reactant | 1,3-bis-trimethylsilyloxy propandiol | C[Si](OC(CCO[Si](C)(C)C)(O)O)(C)C | C9H24O4Si2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-bromo-2-tetralone propylene ketal | C1C(C)OC2(CC3=CC=C(C=C3CC2)Br)O1 | C13H15BrO2
